US04282242
By the procedure of Example 64, 2,4-dichlorobenzoyl chloride (4.18 g., 20 mmoles) and methyl pyrrole-3-carboxylate were reacted to form methyl 5-(2,4-dichlorobenzoyl)pyrrole-3-carboxylate (3.0 g., gummy solid, Rf 0.5 on silica gel thin layer chromatography with ethyl acetate-1/hexane-1 as eluant).

reactant | 2,4-dichlorobenzoyl chloride | 20 mmoles, 4.18 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | methyl pyrrole-3-carboxylate | N1C=C(C=C1)C(=O)OC | C6H7NO2
product | methyl 5-(2,4-dichlorobenzoyl)pyrrole-3-carboxylate | 3.0 g | ClC1=C(C(=O)C2=CC(=CN2)C(=O)OC)C=CC(=C1)Cl | C13H9Cl2NO3
